US06518303B2
To a solution of 2-(2,4-Difluorophenoxy)-1-(4-methanesulfonylphenyl)ethanone ( 4.60 g; 14 mmol) in acetic acid (70 ml), polyphosphoric acid (45 g) was added and then heated at 140° C. for 5 hours. After cooling, the reaction was poured into ice-water, extracted with ethyl acetate (2×100 ml), the organic solution dried (Na2SO4) and the solvent removed under reduced pressure. The residual oil was purified by column chromatography with silica gel and ethyl acetate/n-hexane (1:2) as eluent. Recrystallization from ethanol gave 3-(2,4-difluorophenoxy)-2-(4-methanesulfonylphenyl)-6-methylpyran-4-one (0.64 g), m.p. 191° C. (Compound 45 in Table 4).

reactant | 2-(2,4-Difluorophenoxy)-1-(4-methanesulfonylphenyl)ethanone | 14 mmol, 4.60 g | FC1=C(OCC(=O)C2=CC=C(C=C2)S(=O)(=O)C)C=CC(=C1)F | C15H12F2O4S
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 3-(2,4-difluorophenoxy)-2-(4-methanesulfonylphenyl)-6-methylpyran-4-one | 0.64 g | FC1=C(OC2=C(OC(=CC2=O)C)C2=CC=C(C=C2)S(=O)(=O)C)C=CC(=C1)F | C19H14F2O5S
